US06083949
4-[5-(4-FLUOROPHENYL)-4-PYRIDIN-4-YL-1H-IMIDAZOL-2-YL]PIPERIDINE
Hydrogen chloride gas was bubbled through a stirred solution of 4-[5-(4-fluorophenyl)-4-pyridin-4-yl-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester (0.36 mmol,0.15 g) in ethyl acetate (5 mL) for 0.5 h. The solvent was then evaporated under reduced pressure and the residue diluted with saturated sodium bicarbonate (50 mL). The resulting suspension was extracted with methylene chloride (5×20 mL), the organic layers combined, washed with brine, dried over anhydrous sodium sulfate and the solvent evaporated under reduced pressure. The resulting material was crystallized from diethyl ether to give 30 mg of the title compound as a white powder.

reactant | Hydrogen chloride | Cl | ClH
reactant | 4-[5-(4-fluorophenyl)-4-pyridin-4-yl-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.36 mmol, 0.15 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1NC(=C(N1)C1=CC=NC=C1)C1=CC=C(C=C1)F | C24H27FN4O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 4-[5-(4-FLUOROPHENYL)-4-PYRIDIN-4-YL-1H-IMIDAZOL-2-YL]PIPERIDINE | 30 mg | FC1=CC=C(C=C1)C1=C(N=C(N1)C1CCNCC1)C1=CC=NC=C1 | C19H19FN4
